US06713474B2
A mixture of 4-chloro-5-iodo-7-(4-piperidinyl)-7H-pyrrolo[2,3-d]pyrimidine (0.52 g, 1.43 mmol), 1-methyl-4-piperidone (0.178 g, 1.57 mmol), and glacial acetic acid (0.094 g, 1.57 mmol) in dichloroethane was stirred at 0° C. for 20 minutes. Sodium 15 triacetoxy borohydride (0.455 g, 2.15 mmol) was added and stirred for 15 minutes at 0° C., after which the ice bath was removed, allowed to warm to room temperature and stirred over night. Additional 1-methyl-4-piperidone (0.178 g, 1.57 mmol), glacial acetic acid (0.094 g, 1.57 mmol), and sodium triacetoxy borohydride (0.455 g, 2.15 mmol) were added and stirred at room temperature. To the reaction solution was added sodium bicarbonate (0.721 g, 8.58 mmol) in water (10 mL) and stirred for 1 hour. The organic layer was evaporated under reduced pressure. Ethyl acetate was added, the layers were partitioned, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water and brine, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The compound was purified by flash chromatography on silica using dichloromethane/ethyl acetate (1:1), 10% methanol in dichloromethane, and then 20% methanol in dichloromethane to give 400 mg (61%) of 4-chloro-5-iodo-7-[1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine

reactant | 4-chloro-5-iodo-7-(4-piperidinyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.43 mmol, 0.52 g | ClC=1C2=C(N=CN1)N(C=C2I)C2CCNCC2 | C11H12ClIN4
reactant | 1-methyl-4-piperidone | 1.57 mmol, 0.178 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 1.57 mmol, 0.094 g | C(C)(=O)O | C2H4O2
reactant | 1-methyl-4-piperidone | 1.57 mmol, 0.178 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 1.57 mmol, 0.094 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 2.15 mmol, 0.455 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 8.58 mmol, 0.721 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | water | 10 mL | O | H2O
product | 4-chloro-5-iodo-7-[1-(1-methyl-4-piperidinyl)-4-piperidinyl]-7H-pyrrolo[2,3-d]pyrimidine | 400 mg, 61% | ClC=1C2=C(N=CN1)N(C=C2I)C2CCN(CC2)C2CCN(CC2)C | C17H23ClIN5
